US05330985
4.4. N-[2-[[4- (Aminocarbonyl) pyrimidin-2-yl]amino]-ethyl]-2-[[3-[4-[[5-methyl-2- (1-methylethyl)phenoxy]methyl]piperidin-1-yl]propyl]amino]pyrimidine-4-carboxamide
2.31 g (4.92 mmol) of N-(2-aminoethyl)-2-[[3-[4-[[5-methyl-2-(1-methylethyl)phenoxy]methyl]piperidin-1-yl]propyl]amino]pyrimidine-4-carboxamide, 0.82 g (5.2 mmol) of 2-chloropyrimidine-4-carboxamide, 0.89 g (6.4 mmol) of potassium carbonateand 75 ml of acetonitrile are introduced, under an argon atmosphere, into a0.25 l round-bottomed flask and the mixture is heated at reflux for 30 h.

reactant | N-(2-aminoethyl)-2-[[3-[4-[[5-methyl-2-(1-methylethyl)phenoxy]methyl]piperidin-1-yl]propyl]amino]pyrimidine-4-carboxamide | 4.92 mmol, 2.31 g | NCCNC(=O)C1=NC(=NC=C1)NCCCN1CCC(CC1)COC1=C(C=CC(=C1)C)C(C)C | C26H40N6O2
reactant | 2-chloropyrimidine-4-carboxamide | 5.2 mmol, 0.82 g | ClC1=NC=CC(=N1)C(=O)N | C5H4ClN3O
reactant | potassium | 6.4 mmol, 0.89 g | [K] | K
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | N-[2-[[4- (Aminocarbonyl) pyrimidin-2-yl]amino]-ethyl]-2-[[3-[4-[[5-methyl-2- (1-methylethyl)phenoxy]methyl]piperidin-1-yl]propyl]amino]pyrimidine-4-carboxamide | NC(=O)C1=NC(=NC=C1)NCCNC(=O)C1=NC(=NC=C1)NCCCN1CCC(CC1)COC1=C(C=CC(=C1)C)C(C)C | C31H43N9O3
